US06107329
(2-Oxo-2-thiazolidin-3-yl-ethyl)-carbamic acid tert-butyl ester
Thiazolidine (85 mmol) and Boc-glycine (57 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, 60 hour reaction time) and the product used without purification. Yield 12.7g, 90%.

reactant | Thiazolidine | 85 mmol | S1CNCC1 | C3H7NS
reactant | Boc-glycine | 57 mmol | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
product | (2-Oxo-2-thiazolidin-3-yl-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(N1CSCC1)=O)=O | C10H18N2O3S
